US08222219B2
A solution of thiazole (10.0 g), iodobenzene (2.63 ml), tetrakis(triphenylphosphine)palladium (0) (1.36 g) and potassium acetate (3.46 g) in N,N-dimethylacetamide (100 ml) was stirred under heating at 100° C. overnight. The solvent was evaporated under reduced pressure, and added to the residue was ethyl acetate. The mixture was washed successively with water and brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=100:0-90:10) to give 5-phenylthiazole (1.50 g) as a pale yellow solid. APCI-Mass m/Z 162 (M+H). (2) The above 5-phenylthiazole and 5-bromo-2-chlorobenzaldehyde obtained in Reference Example 16-(1) were treated in a manner similar to Reference Example 100 to give 5-bromo-2-chloro-1-(5-phenyl-2-thiazolylmethyl)benzene as a yellow solid. APCI-Mass m/Z 364/366 (M+H).

reactant | 5-phenylthiazole | C1(=CC=CC=C1)C1=CN=CS1 | C9H7NS
reactant | 5-bromo-2-chlorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)Cl | C7H4BrClO
product | 5-bromo-2-chloro-1-(5-phenyl-2-thiazolylmethyl)benzene | BrC=1C=CC(=C(C1)CC=1SC(=CN1)C1=CC=CC=C1)Cl | C16H11BrClNS
